US07183445B2
1-benzyloxy-4-(1-methylene-allyl)-benzene (0.40 g, 1.694 mmol) and 2-methyl-propenal (0.355 mL) in DCM (10 mL) was cooled to −10° C. BF3.OCH2CH3 (0.322 mL, 1.778 mmol) was added and the reaction mixture stirred for 3 h. The mixture was then quenched by aqueous saturated NaHCO3 solution. After extraction with ethyl acetate (2×100 mL), the reaction mixture was dried over MgSO4 and purified on SiO2 to yield 4-(4-benzyloxy-phenyl)-1-methyl-cyclohex-3-ene carbaldehyde.

reactant | 1-benzyloxy-4-(1-methylene-allyl)-benzene | 1.694 mmol, 0.40 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C=C)=C | C17H16O
reactant | 2-methyl-propenal | 0.355 mL | CC(C=O)=C | C4H6O
reactant | BF3 | B(F)(F)F | BF3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-benzyloxy-phenyl)-1-methyl-cyclohex-3-ene carbaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CCC(CC1)(C=O)C | C21H22O2
